### PR TITLE
doc(Data/Nat/Bitblast): initial commit

### PR DESCRIPTION
**Pull request by mhk119**
Initial commit of Bitblast.lean where we prove equivalence of bitblast unsigned less than and bitblast addition.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Bitblast.lean [hunk 1]
```diff
@@ -0,0 +1,223 @@
+/-
+Copyright (c) 2023 by the authors listed in the file AUTHORS and their
+institutional affiliations. All rights reserved.
```
Comment (semorrison) [inline Mathlib/Data/Nat/Bitblast.lean:3]: Please adjust to match other mathlib files.

File: Mathlib/Data/Nat/Bitblast.lean [hunk 2]
```diff
@@ -0,0 +1,223 @@
...
+  rw [← h3, mul_add, ← mul_assoc, ← pow_succ, shiftr_eq_testBit] at h1
+  have := lt_succ_two_pow (toNat_le_one (n.testBit i)) (mod_lt n (NeZero.pos (2^i)))
+  simp [(Nat.div_mod_unique (two_pow_pos (i + 1))).mpr ⟨add_rotate _ _ (n % (2^i)) ▸ h1.symm, this⟩]
+
+lemma bit_lt (h: bit b n < bit b' m) : n < m ∨ (n = m ∧ b = false ∧ b'= true) := by 
+  cases' b <;> cases' b' <;> revert h
+  <;> simp [le_iff_lt_or_eq]
+
+/-- Bitblast unsigned less than-/
+def bitult (n m w : Nat) := loop n m (w - 1)
```
Comment (semorrison) [inline Mathlib/Data/Nat/Bitblast.lean:82]: Doc-string must explain the semantics of all the arguments.

File: Mathlib/Data/Nat/Bitblast.lean [hunk 3]
```diff
@@ -0,0 +1,223 @@
...
+# Bitblasting for Bitvectors
+
+A bitvector is defined in BitVec as a natural number modulo 2^w (i.e. `Fin` of length 2^w). 
+Many operators on bitvectors are defined as the corresponding operations on `Fin`. 
+For example, less than is defined as the less than of the underlying naturals. Similarly, addition 
+is defined as addition of the underlying naturals modulo 2^w (i.e. `Fin.add`). 
+The bitvector operations were defined from the 
+[`QF_BV` logic](https://smtlib.cs.uiowa.edu/logics-all.shtml#QF_BV) of SMT-LIBv2.
+
+In this file, we define bitblast versions for these operations and show that they correspond
```
Comment (semorrison) [inline Mathlib/Data/Nat/Bitblast.lean:20]: Please add a reference in `references.bib`, and provide some explanation here of what `bitblast` means. Most readers will not know what this refers to.

File: Mathlib/Data/Nat/Bitblast.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/Data/Nat/Bitblast.lean:80]: (Similarly below.)

File: Mathlib/Data/Nat/Bitblast.lean [hunk 4]
```diff
@@ -0,0 +1,223 @@
...
+
+/-- Useful for induction on the most significant bit-/
+theorem mod_two_pow_succ (n i : Nat) : n % 2^(i+1) = 2^i * (Nat.testBit n i).toNat + n % (2^i):= by 
+  have h1 := div_add_mod_two_pow i n
+  have h3 := div_add_mod (Nat.shiftr n i) 2
+  rw [← h3, mul_add, ← mul_assoc, ← pow_succ, shiftr_eq_testBit] at h1
+  have := lt_succ_two_pow (toNat_le_one (n.testBit i)) (mod_lt n (NeZero.pos (2^i)))
+  simp [(Nat.div_mod_unique (two_pow_pos (i + 1))).mpr ⟨add_rotate _ _ (n % (2^i)) ▸ h1.symm, this⟩]
+
+lemma bit_lt (h: bit b n < bit b' m) : n < m ∨ (n = m ∧ b = false ∧ b'= true) := by
```
Comment (semorrison) [inline Mathlib/Data/Nat/Bitblast.lean:75]:
```suggestion
lemma bit_lt (h: bit b n < bit b' m) : n < m ∨ (n = m ∧ b = false ∧ b' = true) := by 
```

File: Mathlib/Data/Nat/Bitblast.lean [hunk 5]
```diff
@@ -0,0 +1,223 @@
...
+  exact add_lt_add_of_le_of_lt (mul_le_of_le_one_right' h) hm
+
+lemma toNat_le_one (b: Bool) : b.toNat ≤ 1 := by cases' b <;> simp
+
+@[simp] lemma bif_eq_toNat : cond b 1 0 = b.toNat := by simp [cond, Bool.toNat]
+
+lemma shiftr_eq_testBit : Nat.shiftr n i % 2 = (n.testBit i).toNat := by 
+  simp [Nat.testBit, Nat.mod_two_of_bodd]
+
+lemma div_add_mod_two_pow (m n : Nat) : n = 2^m * Nat.shiftr n m + n % (2^m):= by
```
Comment (semorrison) [inline Mathlib/Data/Nat/Bitblast.lean:64]:
```suggestion
lemma div_add_mod_two_pow (m n : Nat) : n = 2^m * Nat.shiftr n m + n % (2^m) := by 
```

File: Mathlib/Data/Nat/Bitblast.lean [hunk 6]
```diff
@@ -0,0 +1,223 @@
...
+
+theorem two_pow_succ (n : Nat) : 2^(n + 1) = 2^n + 2^n := by simp [pow_succ, mul_two] 
+
+lemma lt_succ_two_pow (h: b ≤ 1) (hm : m < 2^i) : 2^i * b + m < 2^(i + 1) := by 
+  rw [two_pow_succ]
+  exact add_lt_add_of_le_of_lt (mul_le_of_le_one_right' h) hm
+
+lemma toNat_le_one (b: Bool) : b.toNat ≤ 1 := by cases' b <;> simp
+
+@[simp] lemma bif_eq_toNat : cond b 1 0 = b.toNat := by simp [cond, Bool.toNat]
```
Comment (semorrison) [inline Mathlib/Data/Nat/Bitblast.lean:59]:
```suggestion
@[simp] lemma cond_eq_toNat : cond b 1 0 = b.toNat := by simp [cond, Bool.toNat]
```

File: Mathlib/Data/Nat/Bitblast.lean [hunk 7]
```diff
@@ -0,0 +1,223 @@
...
+
+namespace Nat
+
+lemma bit_toNat (b : Bool) : bit b 0 = b.toNat := by cases' b <;> simp
+
+theorem two_pow_pos (n : Nat) : 0 < 2^n := Nat.pos_pow_of_pos _ (by decide)
+
+theorem two_pow_succ (n : Nat) : 2^(n + 1) = 2^n + 2^n := by simp [pow_succ, mul_two] 
+
+lemma lt_succ_two_pow (h: b ≤ 1) (hm : m < 2^i) : 2^i * b + m < 2^(i + 1) := by
```
Comment (semorrison) [inline Mathlib/Data/Nat/Bitblast.lean:53]:
```suggestion
lemma lt_succ_two_pow (h : b ≤ 1) (hm : m < 2^i) : 2^i * b + m < 2^(i + 1) := by 
```
and below.

File: Mathlib/Data/Nat/Bitblast.lean [hunk 8]
```diff
@@ -0,0 +1,223 @@
...
+
+theorem two_pow_pos (n : Nat) : 0 < 2^n := Nat.pos_pow_of_pos _ (by decide)
+
+theorem two_pow_succ (n : Nat) : 2^(n + 1) = 2^n + 2^n := by simp [pow_succ, mul_two] 
+
+lemma lt_succ_two_pow (h: b ≤ 1) (hm : m < 2^i) : 2^i * b + m < 2^(i + 1) := by 
+  rw [two_pow_succ]
+  exact add_lt_add_of_le_of_lt (mul_le_of_le_one_right' h) hm
+
+lemma toNat_le_one (b: Bool) : b.toNat ≤ 1 := by cases' b <;> simp
```
Comment (semorrison) [inline Mathlib/Data/Nat/Bitblast.lean:57]: This should be in the `Bool` namespace, I think.

File: Mathlib/Data/Nat/Bitblast.lean (hunk 6 above)
Comment (semorrison) [inline Mathlib/Data/Nat/Bitblast.lean]: This should not be in the `Nat` namespace.

**Comment by goens** [comment]
There's a definition `Bitvec` (see e.g. Data/Bitvec/Defs) for reasoning of `Nat` as "unsigned int" bitvectors, and `Int` as singed int using two's complement. These definitions and theorems probably would go better in that namespace than in `Nat` or `Bool`, wouldn't they? (and somewhere under Data/Bitvec).

**Comment by mhk119** [comment]
> There's a definition `Bitvec` (see e.g. Data/Bitvec/Defs) for reasoning of `Nat` as "unsigned int" bitvectors, and `Int` as singed int using two's complement. These definitions and theorems probably would go better in that namespace than in `Nat` or `Bool`, wouldn't they? (and somewhere under Data/Bitvec).

**Comment by mhk119** [comment]
> I see. The reason why I put them in `Nat` was because the results proved were like a continuation to `Data.Nat.Bitwise`. In fact, my collaborator and I initially discussed adding our theorems to that file. The other thing is for our project [t https://github.com/mhk119/lean-smt/blob/bitvec/Smt/Data/BitVec.lean](https://github.com/mhk119/lean-smt/blob/bitvec/Smt/Data/BitVec.lean) we are proving the correctness of bitblast rules for bitvectors (e.g. unsigned less than, addition, negation, multiplication etc). For example, we show that `bitadd` corresponds to `Fin.add`. We found that defining bitvectors as `Fin (2^w)` is a clean way of achieving this translation since it gives us easy access to many important files including `Data.Nat.Bitwise` and `Data.Nat.Bits`. So far we proved the correspondence for all of the aforementioned bitblast operators so this is a good sign that the current definition of bitvectors works.



> There's a definition `Bitvec` (see e.g. Data/Bitvec/Defs) for reasoning of `Nat` as "unsigned int" bitvectors, and `Int` as singed int using two's complement. These definitions and theorems probably would go better in that namespace than in `Nat` or `Bool`, wouldn't they? (and somewhere under Data/Bitvec).

**Comment by digama0** [comment]
I don't really like the naming for this file. "Bitblasting" is a name for a specific technique in which theorems are proved by rewriting them as theorems about 32 or 64 bool variables and then using a SAT solver, and nothing like that is being done in this file. Rather, there are some *bitwise* operations on Nats, and some discussion about *bit vectors* which don't seem to correspond to anything currently in the file. Bit *blasting* is not covered at all.

**Comment by mhk119** [comment]
I apologize for the confusion caused by this PR. It may seem unrelated to the current Mathlib version of bitvectors, but it is actually part of a larger project to develop a tactic that can translate a Lean goal into an SMT query, invoke an SMT solver, and use the solver's proof to discharge the goal. The project's source code is at: https://github.com/ufmg-smite/lean-smt.

The bitvector operations and theorems in this PR are based on a new definition of [`BitVec`](https://github.com/ufmg-smite/lean-smt/blob/main/Smt/Data/BitVec.lean) as `Fin (2 ^ w)`, which is different from the one in Mathlib. This definition was chosen by Wojciech Nawrocki and Joe Hendrix, the authors of the Mathlib version, because it is more efficient and easier to work with (thanks to the existing `Nat` theorems). We plan to replace the Mathlib version with this one once the porting is done.

The PR's content is similar to `Data.Nat.Bitwise`, which I used extensively. I think it would be useful to have these bitvector operations and theorems in Mathlib as well. I brought up the idea of adding them to Mathlib in the [Lean Zulip chat](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/bitblasting.20of.20bitvectors), and Scott Morrison suggested that I open a PR. I apologize for not being clear about this in the PR description.

**Comment by digama0** [comment]
I'm onboard with the general plan you lay out, my comment is only that this file is not about bitblasting and not about bitvectors, it's about functions on Nat and it should be named accordingly. As for `Fin (2 ^ n)`, I think it would make sense to call that type something like `UIntN` for consistency with `UInt8`, `UInt16` etc types which have the same definition.

**Comment by mhk119** [comment]
I see. I suppose I should merge our work into `Data.Nat.Bitwise`? I've pushed a commit doing that but the gituhub-actions bot keeps removing the awaiting-CI label 🤔.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 9]
```diff
@@ -139,6 +194,31 @@ theorem lt_of_testBit {n m : ℕ} (i : ℕ) (hn : testBit n i = false) (hm : tes
...
+    · use 0; simp only [testBit_zero]
+      exact ⟨ h3.2.1, h3.2.2, by intros j hj
+                                 have ⟨j', hj⟩ := exists_eq_add_of_le' hj
+                                 simp[hj, testBit_succ, h3.1]⟩ 
+
+theorem testBit_false_of_lt (h: n < 2^i) (h1: i ≤ j) : n.testBit j = false:= by 
+  simp [testBit, shiftr_eq_div_pow, 
+        Nat.div_eq_zero (lt_of_lt_of_le h (pow_le_pow_of_le_right (by decide) h1))]
+
+theorem lt_of_testBit_true (h: n.testBit i = true) (hn : n < 2^w) : i < w := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Bitwise.lean:219]:
```suggestion
theorem lt_of_testBit_eq_true (h: n.testBit i = true) (hn : n < 2^w) : i < w := by
```

File: Mathlib/Data/Nat/Bitwise.lean [hunk 10]
```diff
@@ -164,6 +244,125 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
     simp [h]
 #align nat.test_bit_two_pow Nat.testBit_two_pow
 
+theorem testBit_translate (h: i < w) : Nat.testBit (2^w * b + n) i = Nat.testBit n i := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Bitwise.lean:247]:
```suggestion
theorem testBit_two_pow_mul_add (h: i < w) : Nat.testBit (2^w * b + n) i = Nat.testBit n i := by
```

File: Mathlib/Data/Nat/Bitwise.lean [hunk 11]
```diff
@@ -164,6 +244,125 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
...
+  simp only [testBit, shiftr_eq_div_pow, bodd_eq_iff]
+  rw [Nat.add_div_of_dvd_right (by simp [Dvd.dvd.mul_right, pow_dvd_pow, le_of_lt h]), add_mod]
+  have h1: (2^w / 2^i) % 2 = 0 := by
+    rw [← Nat.dvd_iff_mod_eq_zero]
+    use 2^(w - (i + 1))
+    rw [Nat.pow_div (by linarith) (by decide), mul_comm, ← pow_succ 2 _, succ_eq_add_one]
+    simp [← Nat.sub_add_comm, succ_le_of_lt h]
+  simp [mul_comm, Nat.mul_div_assoc b (pow_dvd_pow 2 (le_of_lt h)), mul_mod, h1]
+
+theorem testBit_translate' (h: n < 2^w) : Nat.testBit (2^w * b.toNat + n) w = b:= by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Bitwise.lean:257]:
```suggestion
theorem testBit_two_pow_mul_toNat_add (h: n < 2^w) : Nat.testBit (2^w * b.toNat + n) w = b:= by
```

File: Mathlib/Data/Nat/Bitwise.lean [hunk 12]
```diff
@@ -164,6 +244,125 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
...
+  simp only [Nat.testBit, Nat.shiftr_eq_div_pow]
+  rw [Nat.add_div_of_dvd_right (Dvd.intro _ rfl), Nat.div_eq_zero h, add_zero]
+  cases' b <;> simp 
+
+theorem testBit_translate_one (h : i < w) :
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Bitwise.lean:262]:
```suggestion
theorem testBit_two_pow_add (h : i < w) : 
```

File: Mathlib/Data/Nat/Bitwise.lean [hunk 13]
```diff
@@ -164,6 +244,125 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
...
+
+theorem testBit_translate' (h: n < 2^w) : Nat.testBit (2^w * b.toNat + n) w = b:= by
+  simp only [Nat.testBit, Nat.shiftr_eq_div_pow]
+  rw [Nat.add_div_of_dvd_right (Dvd.intro _ rfl), Nat.div_eq_zero h, add_zero]
+  cases' b <;> simp 
+
+theorem testBit_translate_one (h : i < w) : 
+  Nat.testBit (2^w + n) i = Nat.testBit n i := mul_one (2^w) ▸ (testBit_translate h)
+
+theorem testBit_translate_one' (h : n < 2^w) : Nat.testBit (2^w + n) w = true :=
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Bitwise.lean:265]:
```suggestion
theorem testBit_two_pow_add' (h : n < 2^w) : Nat.testBit (2^w + n) w = true :=
```

File: Mathlib/Data/Nat/Bitwise.lean [hunk 14]
```diff
@@ -164,6 +244,125 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
...
+  mul_one (2^w) ▸ toNat_true ▸ (@testBit_translate' n w true h)
+
+/-- Generic method to create a natural number by appending bits tail-recursively.
+It takes a boolean function `f` on each bit and `z` the starting point and the number of bits `i`.
+It is almost always specialized with `z = 0` and `i = w`; the length of the binary representation.
+This is an alternative to using `List` altogether. It will be used for bitadd, bitneg, bitmul etc.-/
+def toNat (f : Nat → Bool) (z : Nat) : Nat → Nat
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Bitwise.lean:272]: The full name of this is `Nat.toNat` I think. It should be called something more descriptive like `Nat.ofBits`, or maybe `ofBits` should be for the version where `z = 0`. I also don't understand the semantics of the function from the docstring, is `z` effectively added to the result?

File: Mathlib/Data/Nat/Bitwise.lean [hunk 15]
```diff
@@ -164,6 +244,125 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
...
+  | 0 => z.bit (f 0)
+  | i + 1 => toNat f (z.bit (f (i + 1))) i
+
+theorem toNat_succ : toNat f z i = 2^(i + 1) * z + toNat f 0 i := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Bitwise.lean:276]: There is no mention of `Nat.succ` on the LHS, so I don't think this is the right name. It might be better with a name like `toNat_eq_pow_mul_add`. Also, this equality could be added to the docstring for `toNat`, because it helps understand the semantics.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 16]
```diff
@@ -164,6 +244,125 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
...
+theorem toNat_lt : toNat f 0 i < 2^(i + 1) := by
+  induction' i with i ih
+  · simp [toNat, bit_val, lt_succ, Bool.toNat_le_one]
+  · simp only [toNat]
+    rw [toNat_succ]
+    cases' (f (i + 1)) <;> simp [ih, two_pow_succ] at * <;> linarith
+
+/-- The `ith` bit of `toNat` is the function at `i`. 
+This is used extensively in the proof of each of the bitadd, bitneg, bitmul etc.-/
+theorem toNat_testBit (h1: i ≤ j): (toNat f 0 j).testBit i = f i := by
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Bitwise.lean:292]:
```suggestion
theorem testBit_toNat (h1: i ≤ j): (toNat f 0 j).testBit i = f i := by
```

File: Mathlib/Data/Nat/Bitwise.lean [hunk 17]
```diff
@@ -164,6 +244,125 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
...
+/-- Binary addition is `toNat` specialized with the right function on the bits `f`.-/
+@[simp] def bitadd (n m i : Nat) := 
+  toNat (λ j => (n.testBit j ^^ m.testBit j) ^^ bitcarry n m j) 0 i
+
+lemma unfold_carry (n m i : Nat) : (bitcarry n m (i + 1)).toNat = 
+  ((Nat.testBit n i && Nat.testBit m i) || 
+  ((Nat.testBit n i ^^ Nat.testBit m i) && bitcarry n m i)).toNat := by 
+  simp [bitcarry]
+
+lemma bitadd_eq_add_base : n % (2^(i + 1)) + m % (2^(i + 1)) =
```
Comment (ChrisHughes24) [inline Mathlib/Data/Nat/Bitwise.lean:338]: This should have a better name. `bitadd` is not on the LHS of the Type so it shouldn't be on the LHS in the name. Something like maybe switching the LHS and RHS in the statement and calling it `bitadd_add_two_pow_mul_bitcarry`

**Review by ChrisHughes24 — COMMENTED** [review]
On the whole this looks really good, and the main comments are about the naming convention and small changes to statements.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 18]
```diff
@@ -63,6 +81,43 @@ theorem bit_eq_zero {n : ℕ} {b : Bool} : n.bit b = 0 ↔ n = 0 ∧ b = false :
...
+
+@[simp] lemma toNat_true : true.toNat = 1 := rfl
+
+lemma bit_toNat (b : Bool) : bit b 0 = b.toNat := by cases' b <;> simp
+
+theorem two_pow_pos (n : Nat) : 0 < 2^n := Nat.pos_pow_of_pos _ (by decide)
+
+theorem two_pow_succ (n : Nat) : 2^(n + 1) = 2^n + 2^n := by simp [pow_succ, mul_two] 
+
+lemma lt_succ_two_pow (h : b ≤ 1) (hm : m < 2^i) : 2^i * b + m < 2^(i + 1) := by
```
[the remark this answers is not in the document]
Comment (mhk119) [reply Mathlib/Data/Nat/Bitwise.lean]: I agree more with this wrt to `lt_succ_two_pow` and hence removed it. For `two_pow_succ`, it is used a lot more (8 in total) in the rest of the [file](https://github.com/mhk119/lean-smt/blob/bitvec/Smt/Data/Bitwise.lean).

File: Mathlib/Data/Nat/Bitwise.lean [hunk 19]
```diff
@@ -164,6 +244,125 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
...
+
+/-! ### Addition-/
+
+/-- Carry function at the `i`th bit for binary addition on `n` and `m`.-/
+def bitcarry (n m : Nat) : Nat → Bool
+  | 0     => false
+  | i + 1 => (n.testBit i && m.testBit i) || ((n.testBit i ^^ m.testBit i) && bitcarry n m i)
+
+/-- Binary addition is `toNat` specialized with the right function on the bits `f`.-/
+@[simp] def bitadd (n m i : Nat) :=
```
[the remark this answers is not in the document]
Comment (mhk119) [reply Mathlib/Data/Nat/Bitwise.lean]: It's equal to that, yes. However, `bitadd` is the bitwise version so it implements this:
image

The equivalence is proved in `bitadd_eq_add`.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 20]
```diff
@@ -164,6 +244,125 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
...
+/-- Carry function at the `i`th bit for binary addition on `n` and `m`.-/
+def bitcarry (n m : Nat) : Nat → Bool
+  | 0     => false
+  | i + 1 => (n.testBit i && m.testBit i) || ((n.testBit i ^^ m.testBit i) && bitcarry n m i)
+
+/-- Binary addition is `toNat` specialized with the right function on the bits `f`.-/
+@[simp] def bitadd (n m i : Nat) := 
+  toNat (λ j => (n.testBit j ^^ m.testBit j) ^^ bitcarry n m j) 0 i
+
+lemma unfold_carry (n m i : Nat) : (bitcarry n m (i + 1)).toNat =
```
[the remark this answers is not in the document]
Comment (mhk119) [reply Mathlib/Data/Nat/Bitwise.lean]: Thanks. How common are lemmas like this? Should I have one for every definition? Then I can do `rw [x_def]` instead of `simp only [x]`.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 21]
```diff
@@ -63,6 +81,43 @@ theorem bit_eq_zero {n : ℕ} {b : Bool} : n.bit b = 0 ↔ n = 0 ∧ b = false :
   cases b <;> simp [Nat.bit0_eq_zero, Nat.bit1_ne_zero]
 #align nat.bit_eq_zero Nat.bit_eq_zero
 
+@[simp] lemma testBit_bool : testBit b.toNat 0 = b := by cases' b <;> simp
+
+@[simp] lemma toNat_true : true.toNat = 1 := rfl
```
[the remark this answers is not in the document]
Comment (mhk119) [reply Mathlib/Data/Nat/Bitwise.lean:86]: Even `testBit_bool`? Because `testBit` is in the `Nat` namespace.

File: Mathlib/Data/Nat/Bitwise.lean [hunk 22]
```diff
@@ -164,6 +244,125 @@ theorem testBit_two_pow (n m : ℕ) : testBit (2 ^ n) m = (n = m) := by
...
+theorem testBit_translate_one' (h : n < 2^w) : Nat.testBit (2^w + n) w = true :=
+  mul_one (2^w) ▸ toNat_true ▸ (@testBit_translate' n w true h)
+
+/-- Generic method to create a natural number by appending bits tail-recursively.
+It takes a boolean function `f` on each bit and `z` the starting point and the number of bits `i`.
+It is almost always specialized with `z = 0` and `i = w`; the length of the binary representation.
+This is an alternative to using `List` altogether. It will be used for bitadd, bitneg, bitmul etc.-/
+def toNat (f : Nat → Bool) (z : Nat) : Nat → Nat
+  | 0 => z.bit (f 0)
+  | i + 1 => toNat f (z.bit (f (i + 1))) i
```
[the remark this answers is not in the document]
Comment (mhk119) [reply Mathlib/Data/Nat/Bitwise.lean:261]: Instead of 0, I put z. Then this works really nicely.

**Comment by grunweg** [comment]
Coming here randomly for issue triage: is this PR still relevant, or can it be closed? As I understand it, bitblasting functionality is being added to Lean core these days - so this material is useful, but need not be in mathlib :-)

**Comment by j-loreaux** [comment]
@kim-em can we close this?
